US05013749
(2S,4R,E)4,5-Bis-(4-fluorophenyl)-1-[(4-methyl-1,3-dioxan-2-yl)-ethenyl]-2-(1-methylethyl)-1H-imidazole
A mixture of (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal (2.01 g), p-toluenesulphonic acid monohydrate (0.316 g) and (R)-(-)-butane-1,3-diol (98%, 1.37 g) in toluene (130 ml) was heated under reflux with a Dean-Stark trap for 20 h. The mixture was concentrated to ca. 30 ml and purified by FCC eluting with System A (1:4) to give the title product (1.78 g), as a white solid. δ(CDCl3) 1.23 (d, J 6 Hz, 3H, CH3CH--O), 1.42 (d, J 7 Hz, 6H, (CH3)2CH), 1.55-1.8 (m, 2H, OCH(CH3)CH2CH2O), 3.20 (septet, J 7 Hz, 1H, (CH3)2CH), 3.7-3.9 (m, 2H, CH2O), 4.05-4.16 (m, 1H, O--CH(CH3)), 4.95 (d, J 5 Hz, 1H, CH=CHCH(O)2), 5.32 (dd, J 15 and 5 Hz, 1H, NCH=CH), 6.76 (dd, J 15 and 1 Hz, 1H, NCH=CH), 6.89 (t, J 9 Hz, 2H, C-3 and C-5 protons of 4-(4-fluorophenyl)), 7.11 (t, J 9 Hz, 2H, C-3 and C-5 protons of 5-(4-fluorophenyl)), 7.39 and 7.27 (2 dd, J 9 and 6 Hz, 4H, C-2 and C-6 protons of both 4-fluorophenyls).

reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 2.01 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
reactant | p-toluenesulphonic acid monohydrate | 0.316 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (R)-(-)-butane-1,3-diol | 1.37 g | C(C[C@@H](C)O)O | C4H10O2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4R,E)4,5-Bis-(4-fluorophenyl)-1-[(4-methyl-1,3-dioxan-2-yl)-ethenyl]-2-(1-methylethyl)-1H-imidazole | 1.78 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)\C=C\[C@H]1OCC[C@H](O1)C)C(C)C | C25H26F2N2O2
